US06596751B2
A mixture of t-butyl N-(2-amino-5-hydroxyphenyl)-N-methylcarbamate (0.43 g), 5-(4-carboxymethoxybenzyl)thiazolidine-2,4-dione (0.51 g), diethyl cyanophosphonate (0.29 g) triethylamine (0.18 g) and tetrahydrofuran (20 ml) was stirred at room temperature for 8 hours. The reaction mixture was concentrated and the residue was partitioned between ethyl acetate and water. The extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was chromatographed on a silica gel column using hexane: ethyl acetate=2:3 as the eluant to afford t-butyl N-{5-hydroxy-2-[4-(2,4-dioxothiazolidin-5-ylmethyl) phenoxymethylcarbonylamino]phenyl}-N-methylcarbamate (0.75 g).

reactant | t-butyl N-(2-amino-5-hydroxyphenyl)-N-methylcarbamate | 0.43 g | NC1=C(C=C(C=C1)O)N(C(OC(C)(C)C)=O)C | C12H18N2O3
reactant | 5-(4-carboxymethoxybenzyl)thiazolidine-2,4-dione | 0.51 g | C(=O)(O)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C12H11NO5S
reactant | diethyl cyanophosphonate | 0.29 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | t-butyl N-{5-hydroxy-2-[4-(2,4-dioxothiazolidin-5-ylmethyl) phenoxymethylcarbonylamino]phenyl}-N-methylcarbamate | 0.75 g | OC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)NC(=O)COC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C24H27N3O7S
